US04224447
A process of claim 5 wherein the pyrazinamidoguanidine is N-guanidino-3,5-diamino-6-chloro-2-pyrazinecarboxamide and the isothiocyanate is 2-chloroethylisothiocyanate which yields 3,5-diamino-6-chloro-N-{[(2-thiazolinylamino)iminomethyl]-amino}-2-pyrazinecarboxamide.

reactant | pyrazinamidoguanidine | N1=C(C=NC=C1)C(=O)NNC(=N)N | C6H8N6O
reactant | N-guanidino-3,5-diamino-6-chloro-2-pyrazinecarboxamide | N(C(=N)N)NC(=O)C1=NC(=C(N=C1N)N)Cl | C6H9ClN8O
reactant | isothiocyanate | [N-]=C=S
reactant | 2-chloroethylisothiocyanate | ClCCN=C=S | C3H4ClNS
product | 3,5-diamino-6-chloro-N-{[(2-thiazolinylamino)iminomethyl]-amino}-2-pyrazinecarboxamide | NC=1C(=NC(=C(N1)N)Cl)C(=O)NNC=NNC=1SCCN1 | C9H12ClN9OS
